US08461134B2
To a solution of 2-chloro-5-nitrobenzonitrile (27.375 g, 0.15 mol) in MeCN (500 ml) was added K2CO3 (24.84 g, 0.18 mol) and phenylmethanethiol (17.71 ml, 0.15 mol). The solution was stirred at room temperature for overnight. The mixture was filtered through the celite pad and the filtrate was concentrated in vacuo to give 2-(benzylthio)-5-nitrobenzonitrile (40.5 g, 100%) as a yellow solid. 1H NMR: CDCl3 400 MHz δ8.43 (s, 1H), 8.27-8.25 (m, 1H), 7.44-7.31 (m, 6H), 4.35 (s, 2H).

reactant | 2-chloro-5-nitrobenzonitrile | 0.15 mol, 27.375 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | K2CO3 | 0.18 mol, 24.84 g | C(=O)([O-])[O-].[K+].[K+]
reactant | phenylmethanethiol | 0.15 mol, 17.71 ml | C1(=CC=CC=C1)CS | C7H8S
solvent | MeCN | 500 ml | CC#N | C2H3N
product | 2-(benzylthio)-5-nitrobenzonitrile | 40.5 g, 100% | C(C1=CC=CC=C1)SC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C14H10N2O2S
